US07365225B2
2-hydroxy-5-{[(4-{[(4-phenoxybenzyl)amino]carbonyl}-1,3-thiazol-2-yl)methyl][4-(trifluoromethyl)benzoyl]amino}benzoic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride, 4-(trifluoromethyl)benzoyl chloride and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+(ESI): 648.0

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride | ClCC=1SC=C(N1)C(=O)Cl | C5H3Cl2NOS
reactant | 4-(trifluoromethyl)benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
product | 2-hydroxy-5-{[(4-{[(4-phenoxybenzyl)amino]carbonyl}-1,3-thiazol-2-yl)methyl][4-(trifluoromethyl)benzoyl]amino}benzoic acid | OC1=C(C(=O)O)C=C(C=C1)N(C(C1=CC=C(C=C1)C(F)(F)F)=O)CC=1SC=C(N1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C33H24F3N3O6S
